US07005432B2
5-Biphenyl-4-yl-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=327.4 (M+H+), was prepared from 4-biphenylboronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 4-biphenylboronic acid | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-Biphenyl-4-yl-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.C1(=CC=C(C=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)C1=CC=CC=C1 | InChI=1S/C21H18N4.ClH/c1-16-22-11-12-25(16)15-21-13-20(14-23-24-21)19-9-7-18(8-10-19)17-5-3-2-4-6-17;/h2-14H,15H2,1H3;1H
